US07625902B2
To a solution of (RS)—N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide (1.417 g) and triphenylphosphine (0.979 g) in tetrahydrofuran (12 ml) was added diethylazodicarboxylate (DEAD, 0.65 g) at 0° C. After 15 min the ice bath was removed and the mixture was stirred at room temperature for 45 min. The solvent was evaporated and the product was purified by chromatography (SiO2, cyclohexane/ethyl acetate 4:1=>1:1) to give (RS)-(1-benzenesulfonyl-aziridin-2-yl)-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-methanone (0.934 g) as a colorless solid.

reactant | (RS)—N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide | 1.417 g | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(C(CO)NS(=O)(=O)C1=CC=CC=C1)=O | C21H27N3O4S
reactant | triphenylphosphine | 0.979 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.65 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | (RS)-(1-benzenesulfonyl-aziridin-2-yl)-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-methanone | 0.934 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C | C21H25N3O3S
